US09260416B2
Step 4: 2-[6-Chloro-2-methyl-1-(1-methyl-1H-pyrazol-4-yl)-1H-indol-3-ylsulfanyl]-isonicotinic acid methyl ester
Prepared according to the procedure described in Example 3, Step 1, using the following starting materials: 2-(6-chloro-2-methyl-1H-indol-3-ylsulfanyl)-isonicotinic acid methyl ester and 4-bromo-1-methyl-1H-pyrazole.

reactant | 2-(6-chloro-2-methyl-1H-indol-3-ylsulfanyl)-isonicotinic acid methyl ester | COC(C1=CC(=NC=C1)SC1=C(NC2=CC(=CC=C12)Cl)C)=O | C16H13ClN2O2S
reactant | 4-bromo-1-methyl-1H-pyrazole | BrC=1C=NN(C1)C | C4H5BrN2
product | 2-[6-Chloro-2-methyl-1-(1-methyl-1H-pyrazol-4-yl)-1H-indol-3-ylsulfanyl]-isonicotinic acid methyl ester | COC(C1=CC(=NC=C1)SC1=C(N(C2=CC(=CC=C12)Cl)C=1C=NN(C1)C)C)=O | C20H17ClN4O2S
